US09416143B2
(2S,7′R)-7-chloro-4,6-dimethoxy-2′,7′-dimethyl-7′,8′-dihydro-3H,5′H-spiro[benzofuran-2,6′-quinoline]-3,5′-dione
A 100 mL round-bottomed flask was charged with 1 g (2.9 mmol, 1 eq.) of griseofulvic acid, 0.34 g (4.4 mmol, 1.5 eq.) ammonium acetate and 347 μL (3.5 mmol, 1.2 eq.) of ethyl vinyl ketone in 10 mL ethanol. The mixture was left under agitation for 4 h at 80° C., cooled to ambient temperature then concentrated under reduced pressure. The residue was purified by chromatography on silica gel (CH2Cl2/AcOEt 98:2 to 80:20). A yellow solid (0.25 g) was obtained with a yield of 21%.

reactant | griseofulvic acid | 2.9 mmol, 1 g, 1 eq. | C[C@@H]1CC(=O)CC(=O)[C@]12C(=O)C3=C(O2)C(=C(C=C3OC)OC)Cl | C16H15ClO6
reactant | ammonium acetate | 4.4 mmol, 0.34 g, 1.5 eq. | C(C)(=O)[O-].[NH4+]
reactant | ethyl vinyl ketone | 3.5 mmol, 347 μL, 1.2 eq. | C(=C)C(=O)CC | C5H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (2S,7′R)-7-chloro-4,6-dimethoxy-2′,7′-dimethyl-7′,8′-dihydro-3H,5′H-spiro[benzofuran-2,6′-quinoline]-3,5′-dione | 0.25 g, yield of 21% | ClC1=C(C=C(C=2C([C@]3(C(C=4C=CC(=NC4C[C@H]3C)C)=O)OC21)=O)OC)OC | C20H18ClNO5
